US07129021B2
Silver Sulfamethazine was prepared using 27.83 grams of sulfamethazine following procedure 1 (i.e. the procedure used for silver sulfamerazine) to give a fine white powder showing some crystallinity.

reactant | sulfamethazine | 27.83 grams | CC=1C=C(N=C(N1)NS(=O)(=O)C=2C=CC(=CC2)N)C | C12H14N4O2S
reactant | silver sulfamerazine | [Ag].CC=1C=CN=C(N1)NS(=O)(=O)C=2C=CC(=CC2)N
product | Silver Sulfamethazine | CC1=CC(=NC(=N1)NS(=O)(=O)C2=CC=C(C=C2)N)C.[Ag+] | InChI=1S/C12H14N4O2S.Ag/c1-8-7-9(2)15-12(14-8)16-19(17,18)11-5-3-10(13)4-6-11;/h3-7H,13H2,1-2H3,(H,14,15,16);/q;+1
